US07973178B2
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
3-[4-(Azetidine-1-carbonyl)-phenoxy]-5-((S)-2-tert-butoxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-benzamide (101.3 μmol; 51.3 mg) was charged to a small screw capped reaction tube. DCM (500.0 μL) was added the reaction mixture followed by TFA (506.3 μmol; 38.3 μL; 57.7 mg), the reaction mixture was stirred at ambient temperature for 18 hours. HPLC analysis showed no reaction after this time. The reaction mixture was heated to 40° C., extra TFA (506.3 μmol; 38.3 μL; 57.7 mg) was added to the reaction tube and the mixture was held at 40° C. for 18 hours. Water (1 mL) was added to the reaction tube followed by sodium hydroxide (2M) (1.0 mmol; 506.3 μL; 526.6 mg). MTBE (4 mL) was added and the mixture was stirred for 5 minutes. An oily gum had formed which was dissolved by addition of EtOAc (2 mL). The two layers were separated and the upper organic layer was retained, the aqueous was extracted again with EtOAc (2×5 mL). The combined organic layers were washed with saturated brine (5 mL), dried over MgSO4, filtered and concentrated in vacuo to give a colourless oil (35 mg, 75.7% yield).

reactant | 3-[4-(Azetidine-1-carbonyl)-phenoxy]-5-((S)-2-tert-butoxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-benzamide | 101.3 μmol, 51.3 mg | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](COC(C)(C)C)C)C=C1 | C28H34N4O5
reactant | DCM | 500.0 μL | C(Cl)Cl | CH2Cl2
reactant | TFA | 506.3 μmol, 38.3 μL, 57.7 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 506.3 μmol, 38.3 μL, 57.7 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium hydroxide | 1.0 mmol, 2M, 506.3 μL, 526.6 mg | [OH-].[Na+]
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | MTBE | 4 mL | CC(C)(C)OC | C5H12O
solvent | Water | 1 mL | O | H2O
product | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 35 mg, 75.7% yield | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](CO)C)C=C1 | C24H26N4O5
